2165-10-04 05:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - RIJ Placed
   - Levophed initiated
   - BCx and Ucx sent
   Allergies:
   Penicillins
   Hives;
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown;
   Iodine; Iodine Containing
   Hives; Rash;
   Compazine (Injection) (Prochlorperazine Edisylate)
   Unknown;
   Hayfever (Nasal) (Homeopathic Drugs)
   Unknown;
   Levofloxacin
   Rash;
   Vancomycin
   Rash; Hives;
   Magnesium Sulfate
   Rash; nasal con
   Dalmane (Oral) (Flurazepam Hcl)
   Unknown;
   Acyclovir Analogues
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2165-10-3**] 09:00 PM
   Meropenem - [**2165-10-4**] 01:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2165-10-3**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-10-4**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 103 (93 - 119) bpm
   BP: 108/64(76) {60/37(45) - 116/68(81)} mmHg
   RR: 19 (16 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 13 (11 - 18)mmHg
   Mixed Venous O2% Sat: 74 - 74
   Total In:
                                                                  1,288 mL
                                                                    132 mL
   PO:
   TF:
   IVF:
                                                                  1,288 mL
                                                                    132 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                    570 mL
   Urine:
                                                                    800 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    488 mL
                                                                   -438 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   gen-ill appearing, pale, NAD, cooperative
   heent-perrla, EOmi, anicteric, MMM, no oropharyngeal lesions/exudates
   neck-supple, no LAD, no jvd
   chest-b/l ae no w/c/r
   heart-s1s2 3/6 systolic flow murmur throughout precordium, no r/g
   abd-+bs, soft, Nt, ND
   ext-no c/c/e 2+pulses
   neuro-alert, orientedx2, following commands, but confused, non focal
   deficits
   skin-no rashes.
   Labs / Radiology
   47 K/uL
   9.8 g/dL
   122 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.3 mEq/L
   22 mg/dL
   99 mEq/L
   135 mEq/L
   27
   3.1 K/uL
        [image002.jpg]
                             [**2165-10-3**]  05:44 PM
                             [**2165-10-3**]  07:05 PM
   WBC
   3.1
   Hct
   28.0
   27
   Plt
   47
   Cr
   0.8
   Glucose
   122
   Other labs: PT / PTT / INR:15.4/31.5/1.4, CK / CKMB / Troponin-T:20//,
   ALT / AST:17/37, Alk Phos / T Bili:144/2.4, Differential-Neuts:29.0 %,
   Band:21.0 %, Lymph:20.0 %, Mono:4.0 %, Eos:4.0 %, Lactic Acid:0.9
   mmol/L, LDH:402 IU/L, Ca++:8.2 mg/dL, Mg++:1.2 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   64 y.o female with h.o multiple B-cell lymphomas, s/p SCT, who
   presented with SOB/fever, now persistently hypotensive.
   .
   # hypotension: Multiple possible etiologies including likely infection.
   Pt immunosuppressed. Currently on vanco/[**Last Name (un) 614**]/caspofungin and ID has
   been following along. PT has had broad infectious w/u including bcx,
   ucx, CMV, stool, sputum, lyme and brucella that have all been negative
   to date. Blood toxo IgM only +thought not to be source of true
   infection. Other possibilities include endocarditis, meningitis or
   intraabdominal/hepatic pathology given persistently elevated bili.
   Other etiologies of hypotension include PE-pt current sating well,
   tamponade, had neg ECHO this am. Other possibilities include adrenal
   insufficiency. Of note, pt was about to undergo [**Last Name (un) 402**] stim prior to ICU
   transfer.  Pt may be hypovolemic as well as she has been actively
   diuresed for CHF.
   - Central venous line placed.
   - IV fluids to goal CVP 10-12
   - Levophed to maintain MAP > 65 and UOP > 30cc/hr
   - Broad spectrum antiobiotics, Vanco, [**Last Name (un) 614**], caspo per ID recs.
   - Follow-up blood, urine, sputum, viral cultures
   - repeat cx
   -f/u DFA influenza, B-glucan, galactomannan.
   - Trend WBC count fever curve.
   -IV steriods to cover for possible AI
   .
   #sinusitis: Pt with s/s prior to admission. MRI showing signs of
   sinusitis/inflammation.
   -ENT eval, no signs of mucor or fungal infection
   -f/u ENT cultures
   -nasal spray
   -abx as above.
   #. SOB: Currently resolved, but with new O2 requirement. Originally
   thought to be due to CAP +/- bacterial sinusitis and treated
   accordingly. In end, thought to be secondary to CHF. Has has serial
   echos to eval for tamponade/effusion.
   -monitor
   -wean 02 as tol
   -low threshold to intubate if needed, as pt with cardiovas dx and given
   several liters IVF.
   -nebs
   -cough suppressants.
   .
   #. CVD: Patient s/p emergent CABG within 1 year. ASA d/cd on admit.
   BB, Lasix, Spironolactone continued on admit. Pt [**Name (NI) **] on admit.
   -hold BB/lasix/aldactone as hypotensive.
   -has had recent echo and cards c/s.
   -check dig levels.
   .
   #. Hypothyroidism: Will continue outpt management.
   -check TSH
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-10-3**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2165-10-05 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2165-10-4**] 06:53 PM
   -Reviewed code status and pt is full code.
   -BMT recs- cont vanco, [**Last Name (un) 614**], caspo. Consider neuro if MS continues to
   fluctuate.
   -Cortisol added on to [**10-3**] labs 16.4. Steroids were stopped
   -ID- sent off rpt IgG, HHV-6 PCR. Still unsure why pt on droplet
   precautions- perhaps b/c nares cx still pending. Follow LFTs.
   -RUQ U/S unremarkable
   -RUE U/S neg for DVT
   - Bilat LENI- PFI: no evidence of DVT. Final read pending
   - Urine lytes ordered- no yet collected
   -Cards came by- Pt has progressive right heart depression on TTE and
   incr PAP. think constrictive pericarditis unlikely. Rec easing up on
   diuresis for now. ?need for swan ganz catheter.
   - rash a bit worse in afternoon
   -In evening, tried boluses 250cc. After 1 bolus, CVP to 14 from [**10-9**],
   MVO2 71 from 53, Levo to 0.05 from 0.03.  Second bolus of 250cc was
   started and pt desated briefly to high 80's.  After second bolus, CVP
   17, Levo on 0.05 and mixed venous o2 75.
   - Cx NGTD, EBV VL, CMV VL pending
   - Goal CVP 10, MAP 65
   - could consider TEE in future
   - Per BMT, Plt goal>10 but call blood bank to start screening for
   platelets if <20
   -FS elevated to 200's. Pt not currently on insulin
   Allergies:
   Penicillins
   Hives;
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown;
   Iodine; Iodine Containing
   Hives; Rash;
   Compazine (Injection) (Prochlorperazine Edisylate)
   Unknown;
   Hayfever (Nasal) (Homeopathic Drugs)
   Unknown;
   Levofloxacin
   Rash;
   Vancomycin
   Rash; Hives;
   Magnesium Sulfate
   Rash; nasal con
   Dalmane (Oral) (Flurazepam Hcl)
   Unknown;
   Acyclovir Analogues
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2165-10-4**] 01:06 PM
   Caspofungin - [**2165-10-4**] 09:00 PM
   Meropenem - [**2165-10-5**] 12:10 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-10-5**] 05:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-10-5**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 100 (90 - 124) bpm
   BP: 86/51(59) {73/42(51) - 149/71(80)} mmHg
   RR: 19 (15 - 26) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 51 kg (admission): 50 kg
    CVP: 16 (8 - 23)mmHg
   Mixed Venous O2% Sat: 53 - 75
   Total In:
                                                                  2,159 mL
                                                                    131 mL
   PO:
                                                                    600 mL
   TF:
   IVF:
                                                                  1,559 mL
                                                                    131 mL
   Blood products:
   Total out:
                                                                  1,530 mL
                                                                    230 mL
   Urine:
                                                                  1,530 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    629 mL
                                                                    -99 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   38 K/uL
   10.1 g/dL
   173 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.1 mEq/L
   24 mg/dL
   103 mEq/L
   140 mEq/L
   30.0 %
   4.1 K/uL
        [image002.jpg]
                             [**2165-10-3**]  05:44 PM
                             [**2165-10-3**]  07:05 PM
                             [**2165-10-4**]  05:31 AM
                             [**2165-10-5**]  03:53 AM
   WBC
   3.1
   5.2
   4.1
   Hct
   28.0
   27
   30.6
   30.0
   Plt
   47
   38
   Cr
   0.8
   0.7
   0.7
   Glucose
   122
   173
   173
   Other labs: PT / PTT / INR:15.4/34.2/1.4, CK / CKMB / Troponin-T:20//,
   ALT / AST:23/29, Alk Phos / T Bili:142/2.0, Differential-Neuts:29.0 %,
   Band:21.0 %, Lymph:20.0 %, Mono:4.0 %, Eos:4.0 %, Lactic Acid:0.9
   mmol/L, LDH:351 IU/L, Ca++:8.2 mg/dL, Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
   64 y.o female with h.o multiple B-cell lymphomas, s/p SCT, who
   presented with SOB/fever, now persistently hypotensive.
   .
   # Shock: Etiologies still include sepsis, constrictive pericarditis,
   and adrenal insufficiency. Infectious source remains unclear, sinus
   appears less likely given ENT evaluation overnight. Remains afebrile
   (although per report 98-99F is high for the pt) Currently on
   vanco/[**Last Name (un) 614**]/Caspofungin for broad spectrum coverage. ID following
   closely.
   - IV fluids to goal CVP 10-12
   - Levophed to maintain MAP > 65 and UOP > 30cc/hr
   - Broad spectrum antiobiotics, Vanco, [**Last Name (un) 614**], caspo per ID recs.
   - Follow-up blood, urine, sputum, viral cultures
   - RUQ to assess liver for potential infectious etiologies
   - repeat cx
   - Trend WBC count fever curve.
   - Will d/c steroids for now, and Cortstim in 24hrs if pt remains
   hemodynamically stable. Will add steroids back at lower dose
   - Will discuss with Cards today specifically if Constrictive
   Pericarditis is a cause for her hypotension.
   .
   #. SOB: On 2L overnight. Unclear etiology although could be secondary
   to CHF or unrecognized PNA
   -wean 02 as tol
   -low threshold to intubate if needed, as pt with cardiovas dx and given
   several liters IVF.
   -nebs
   -cough suppressants.
   .
   #. Acute on Chronic CHF: Patient s/p emergent CABG within 1 year.
   - Continue with hemodyamic goals as listed above.
   - Hold BB/lasix/aldactone as hypotensive.
   - Cards Recs today
   - Following Dig level
   .
   # L arm Swelling. Unclear etiology
   - r/u UE DVT with non-invasive doppler
   .
   # Thrombocytopenia: Etiology unclear to [**Name (NI) 1**] team, likely secondary to
   patients MDS.
   -          Will discuss with Heme-Onc and gather more history
   -          No active signs of bleeding but for now will keep >20K
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-10-3**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2165-10-06 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pressors weaned off, but patient overloaded on CXR
   - Lasix diuresis without need for pressors
   - CMV virus not detected, sputum swab with rare OP growth
   - Cards did not want swan-ganz today
   - No DVT in LUE
   - Endocrinologist wanted to keep levothyroxine at current dose
   Allergies:
   Penicillins
   Hives;
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown;
   Iodine; Iodine Containing
   Hives; Rash;
   Compazine (Injection) (Prochlorperazine Edisylate)
   Unknown;
   Hayfever (Nasal) (Homeopathic Drugs)
   Unknown;
   Levofloxacin
   Rash;
   Vancomycin
   Rash; Hives;
   Magnesium Sulfate
   Rash; nasal con
   Dalmane (Oral) (Flurazepam Hcl)
   Unknown;
   Acyclovir Analogues
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2165-10-4**] 09:00 PM
   Vancomycin - [**2165-10-5**] 02:00 PM
   Meropenem - [**2165-10-6**] 12:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2165-10-5**] 09:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-10-6**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 97 (95 - 110) bpm
   BP: 93/53(62) {85/48(57) - 118/68(81)} mmHg
   RR: 13 (13 - 28) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51 kg (admission): 50 kg
    CVP: 12 (12 - 27)mmHg
   Total In:
                                                                  1,319 mL
                                                                    217 mL
   PO:
                                                                    960 mL
   TF:
   IVF:
                                                                    359 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                    830 mL
   Urine:
                                                                  2,075 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -756 mL
                                                                   -613 mL
   Respiratory support
   SpO2: 91%
   ABG: ///32/
   Physical Examination
   Gen: NAD, AOx3
   HEENT: PERRL, R IJ in place, pale conjunctiva
   CV: Tachy, but regular, no M/R/G
   Pulm: CTAB
   Abd: Soft, NT/ND, BS +
   Extr: 2+ edema at ankles, edema at LUE unchanged, pulses 2+ symmetric
   Labs / Radiology
   19 K/uL
   9.0 g/dL
   146 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.6 mEq/L
   27 mg/dL
   102 mEq/L
   140 mEq/L
   26.2 %
   3.2 K/uL
        [image002.jpg]
                             [**2165-10-3**]  05:44 PM
                             [**2165-10-3**]  07:05 PM
                             [**2165-10-4**]  05:31 AM
                             [**2165-10-5**]  03:53 AM
                             [**2165-10-5**]  09:15 PM
                             [**2165-10-6**]  03:59 AM
   WBC
   3.1
   5.2
   4.1
   3.2
   Hct
   28.0
   27
   30.6
   30.0
   26.2
   Plt
   47
   38
   31
   19
   Cr
   0.8
   0.7
   0.7
   0.7
   0.8
   Glucose
   122
   173
   173
   146
   146
   Other labs: PT / PTT / INR:14.4/32.8/1.3, CK / CKMB / Troponin-T:20//,
   ALT / AST:18/27, Alk Phos / T Bili:126/1.6, Differential-Neuts:29.0 %,
   Band:21.0 %, Lymph:20.0 %, Mono:4.0 %, Eos:4.0 %, Lactic Acid:0.9
   mmol/L, Albumin:3.3 g/dL, LDH:324 IU/L, Ca++:8.3 mg/dL, Mg++:1.6 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   64 y.o female with h.o multiple B-cell lymphomas, s/p SCT, who
   presented with SOB/fever, now persistently hypotensive.
   .
   # Shock: Etiologies still include sepsis, constrictive pericarditis
   (although cards thinks this is unlikely), and adrenal insufficiency.
   Infectious source remains unclear, sinus appears less likely given ENT
   evaluation. Remains afebrile (although per report 98-99F is high for
   the pt) Currently on  vanco/[**Last Name (un) 614**]/Caspofungin for broad spectrum
   coverage. ID following closely.  Viral Cx without growth and random
   cortisol prior to steroids was nl.
   - Lasix today given fluid overload
   - Levophed to maintain MAP > 65 and UOP > 30cc/hr
   - Broad spectrum antiobiotics, Vanco, [**Last Name (un) 614**], caspo per ID recs.
   - Follow-up blood, urine, sputum cultures
   - RUQ to assess liver for potential infectious etiologies
   - repeat cx
   - Trend WBC count fever curve.
   HEMODYNAMICS: [**Last Name (un) **]-stim today.
     * Cortisol (random) was indeterminate
 trying off steroids.
     * Keep CVP>10, MAP >55
     * I think she is acting like she has either restrictive
       cardiomyopathy or constrictive pericardial disease.  Will try to
       find optimal preload.  At present, she has pulmonary edema and we
       will diurese in spite of vasopressors.
   . Fevers/infection
     * Continue present antibiotics and antifungals
     * Follow multiple cultures
     * Appreciate IDs help.
   #. SOB: On RA overnight. Unclear etiology although likely secondary to
   CHF or unrecognized PNA
   -low threshold to intubate if needed, as pt with cardiovas dx and given
   several liters IVF.
   - lasix diuresis
   -nebs
   -cough suppressants.
   .
   #. Acute on Chronic CHF: Patient s/p emergent CABG within 1 year.
   - Continue with hemodyamic goals as listed above.
   - Lasix diuresis today
   - Hold BB/aldactone as hypotensive.
   - Cards Recs today
   - ? Swan today for pressures
     * Discuss further with cardiology
     * Continue present hemodynamic goals
   # L arm Swelling. Unclear etiology -> U/S negative for DVT
   .
   # Thrombocytopenia: Per Hem-onc, likely secondary to patients MDS.
   Need to call blood bank if plt <20K in preparation of transfusion when
   <10K.
   -          No active signs of bleeding but for now will keep >10K
     * Appreciate BMT
s help
   LUE swelling
     * Doppler . Yesterday
s appears to have been done on right.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-10-3**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2165-10-06 11:54:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Weaned off norepinephrine
   Diuresed --> dyspnea improved
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Hives;
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown;
   Iodine; Iodine Containing
   Hives; Rash;
   Compazine (Injection) (Prochlorperazine Edisylate)
   Unknown;
   Hayfever (Nasal) (Homeopathic Drugs)
   Unknown;
   Levofloxacin
   Rash;
   Vancomycin
   Rash; Hives;
   Magnesium Sulfate
   Rash; nasal con
   Dalmane (Oral) (Flurazepam Hcl)
   Unknown;
   Acyclovir Analogues
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2165-10-4**] 09:00 PM
   Vancomycin - [**2165-10-5**] 02:00 PM
   Meropenem - [**2165-10-6**] 12:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2165-10-5**] 09:34 PM
   Other medications:
   meropenem, vancomycin, clotrimazole, caspofungin, vit d, mag oxide,
   mvi, celexa, allopurinol, digoxin, PPI, levoxyl, nebs, klonopin, SQH
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-10-6**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.3
   HR: 95 (94 - 110) bpm
   BP: 98/60(68) {85/48(57) - 109/78(81)} mmHg
   RR: 17 (13 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51 kg (admission): 50 kg
   CVP: 11 (10 - 23)mmHg
   Total In:
                                                                  1,319 mL
                                                                    600 mL
   PO:
                                                                    960 mL
   TF:
   IVF:
                                                                    359 mL
                                                                    600 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                  1,015 mL
   Urine:
                                                                  2,075 mL
                                                                  1,015 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -756 mL
                                                                   -415 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///32/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right: Trace edema, Left: Trace edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   19 K/uL
   146 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.6 mEq/L
   27 mg/dL
   102 mEq/L
   140 mEq/L
   26.2 %
   3.2 K/uL
        [image002.jpg]
                             [**2165-10-3**]  05:44 PM
                             [**2165-10-3**]  07:05 PM
                             [**2165-10-4**]  05:31 AM
                             [**2165-10-5**]  03:53 AM
                             [**2165-10-5**]  09:15 PM
                             [**2165-10-6**]  03:59 AM
   WBC
   3.1
   5.2
   4.1
   3.2
   Hct
   28.0
   27
   30.6
   30.0
   26.2
   Plt
   47
   38
   31
   19
   Cr
   0.8
   0.7
   0.7
   0.7
   0.8
   Glucose
   122
   173
   173
   146
   146
   Other labs: PT / PTT / INR:14.4/32.8/1.3, CK / CKMB / Troponin-T:20//,
   ALT / AST:18/27, Alk Phos / T Bili:126/1.6, Differential-Neuts:29.0 %,
   Band:21.0 %, Lymph:20.0 %, Mono:4.0 %, Eos:4.0 %, Lactic Acid:0.9
   mmol/L, Albumin:3.3 g/dL, LDH:324 IU/L, Ca++:8.3 mg/dL, Mg++:1.6 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   64-year-old woman with complicated oncologic history (hodgkins lymphoma
   s/p xrt [**2145**], Lg B-cell lymphoma [**2145**] s/p autosct, recurred '[**60**] and
   repeat sctp, MDS dx [**3-5**] by bm bx) and acute-on-chronic systolic CHF
   (EF30%) who comes to the ICU for shock and altered mental
   status/encephalopathy.  Her encephalopathy has improved (perhaps as a
   consequence of hemodynamic therapy).
   Shock
     * Now off pressors for about 22 hours
     * Tolerated diuresis yesterday with improved dyspnea
     * Cortisol (random) was indeterminate
 trying off steroids.
       Persistent improved blood pressure argues strongly against adrenal
       insufficiency.
     * I suspect that the dominant underlying etiology of her very
       difficult-to-manage hemodynamics is a very steep stroke volume vs.
       preload curve.  The most likely etiology of this is restrictive
       cardiomyopathy or constrictive pericardial disease.  She has shown
       that with too little preload she has symptomatic shock; with only a
       little more, she has pulmonary edema.  In addition, she may well
       have autonomic dysregulation leading to inability to increase her
       SVR.
   Fevers/infection
     * No specific identified site of infection, though sinuses are
       suspect.
     * Continue present antibiotics and antifungals.  As per Dr. [**Last Name (STitle) 2351**]
       note, if she does well overnight would d/c vancomycin tomorrow.
     * Follow multiple cultures
     * Appreciate IDs help.
   Congestive heart failure, systolic, acute and chronic
     * Diurese -500 today (likely still a bit of pulmonary edema)
     * Measure weight today.  Goal weight should be this or below.
   Thrombyocytopenia
     * Appreciate BMT
s help.  Will likely need platelets later today or
       tomorrow.
   LUE swelling
     * Doppler negative.
   Other issues as per ICU team note today.
   Full code.
   Discussed with patient and husband.
   She is critically ill, though improving.  Time: 40 minutes.
   ICU Care
   Nutrition: oral diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-10-3**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 40 min
   Patient is critically ill